US07057067B2
2-(2-(N-methoxyimino)ethylaminocarbonyl)-2′-methyl-4′-pentafluoroethylbenzanilide was treated in the same manner as in Example 36, except that the N-bromosuccinimide was replaced with N-iodosuccinimide, to obtain 3-iodo-2-(2-(N-methoxyimino)ethylaminocarbonyl)-2′-methyl-4′-pentafluoroethylbenzanilide (yield 53%, melting point 110° C.). Regioselectivity of iodination into the 3-position was 100%.

reactant | 2-(2-(N-methoxyimino)ethylaminocarbonyl)-2′-methyl-4′-pentafluoroethylbenzanilide | CON=CCNC(=O)C1=C(C(=O)NC2=C(C=C(C=C2)C(C(F)(F)F)(F)F)C)C=CC=C1 | C20H18F5N3O3
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-iodosuccinimide | IN1C(CCC1=O)=O | C4H4INO2
product | 3-iodo-2-(2-(N-methoxyimino)ethylaminocarbonyl)-2′-methyl-4′-pentafluoroethylbenzanilide | yield 53% | IC=1C(=C(C(=O)NC2=C(C=C(C=C2)C(C(F)(F)F)(F)F)C)C=CC1)C(=O)NCC=NOC | C20H17F5IN3O3
